US09079853B2
3-(3,4-dimethoxybenzyl)-5-methyl-2-oxo-1-phenethylindolin-3-yl benzoate
This compound was made in an analogous fashion to 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate using 5-methyl-2-oxo-1-phenethylindolin-3-yl benzoate and 4-(bromomethyl)-1,2-dimethoxybenzene. 1H-NMR δ 8.07 (d, 2H), 7.58 (t, 1H), 7.46 (t, 2H), 7.27 (m, 4H), 7.04 (d, 1H), 6.88 (s, 1H), 6.67 (dd, 2H), 6.52 (d, 2H), 6.40 (s, 1H), 3.88 (m, 1H), 3.81 (s, 3H), 3.72 (m, 1H), 3.70 (s, 3H), 3.49 (d, 1H), 3.17 (d, 1H), 2.74 (t, 2H), 2.26 (s, 3H). Calculated mass for C33H31NO5, 521.22. Observed 544.2 (M+Na).

reactant | 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C28H29NO6
reactant | 5-methyl-2-oxo-1-phenethylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CCC1=CC=CC=C1)=O | C24H21NO3
reactant | 4-(bromomethyl)-1,2-dimethoxybenzene | BrCC1=CC(=C(C=C1)OC)OC | C9H11BrO2
product | 3-(3,4-dimethoxybenzyl)-5-methyl-2-oxo-1-phenethylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CCC1=CC=CC=C1)=O)CC1=CC(=C(C=C1)OC)OC | C33H31NO5
